US03987182
A. 2-Isopropyl-1-methyl-6-trifluoromethylbenzimidazole
Shake 12.0 g. of N-methyl-2'-nitro-5'-trifluoromethylisobutyranilide in 100 ml. of ethanol containing 0.3 g. of 5% palladium on carbon at an initial pressure of approximately 50 lbs. per square inch. Filter, removing the solvent, and add 40 ml. of 4N hydrochloric acid and reflux for 30 minutes. Cool, and basify with sodium bicarbonate. Extract with ether and dry over sodium sulfate. Sublime at 55° C (0.1 mm) obtaining the product of this step.

reactant | N-methyl-2'-nitro-5'-trifluoromethylisobutyranilide | CN(C1=C(C=CC(=C1)C(F)(F)F)[N+](=O)[O-])C(C(C)C)=O | C12H13F3N2O3
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 0.3 g | C(C)O | C2H6O
product | 2-Isopropyl-1-methyl-6-trifluoromethylbenzimidazole | C(C)(C)C1=NC2=C(N1C)C=C(C=C2)C(F)(F)F | C12H13F3N2
